US08283353B2
4′-{[4-(4-{[(1R,2S)-2-hydroxy-1-methylpropyl]oxy}phenyl)-5-oxo-7-propyl-4,5-dihydropyrazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile
To a solution of 4′-{[4-(4-hydroxyphenyl)-5-oxo-7-propyl-4,5-dihydropyrazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile (0.92 g) in N,N-dimethylformamide (10 mL) were added trans-2,3-epoxybutane (1.8 mL) and then cesium carbonate (2.0 g), and the mixture was stirred at 100° C. for 15 hr. The mixture was allowed to cool, to the reaction mixture were added ethyl acetate and then saturated aqueous ammonium chloride solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated. The residue was purified by silica gel column chromatography to give the title compound as a pale-yellow amorphous solid (0.57 g, 54%).

reactant | 4′-{[4-(4-hydroxyphenyl)-5-oxo-7-propyl-4,5-dihydropyrazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 0.92 g | OC1=CC=C(C=C1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CC2 | C29H24N4O2
reactant | trans-2,3-epoxybutane | 1.8 mL | C[C@H]1[C@@H](O1)C | C4H8O
reactant | cesium carbonate | 2.0 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 4′-{[4-(4-{[(1R,2S)-2-hydroxy-1-methylpropyl]oxy}phenyl)-5-oxo-7-propyl-4,5-dihydropyrazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 0.57 g, 54% | O[C@H]([C@@H](C)OC1=CC=C(C=C1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CC2)C | C33H32N4O3
